US06140351
In a similar manner to that described in Paragraph A above, N-(4-chlorophenyl)-2-[((5-(bromomethyl)-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide (0.5 g, 1.0 mmol) was reacted with thiomorpholine (0.5 mL, 4.8 mmol). Purification by flash chromatography on silica gel afforded 0.4 g (73% yield) of N-(4-chlorophenyl)-2-[((5-((thiomorpholin-4-yl)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide; as a pale yellow powder; NMR (CDCl3) 11.0 (s, 1), 9.0 (s, 1), 8.2 (d, 1), 7.8 (d, 2), 7.5 (d, 1), 7.4 (d, 2), 7.4 (s, 1), 7.2 (dd, 1), 3.7 (s, 2), 2.8 (m, 4), 2.7 (m, 4) ppm.

reactant | N-(4-chlorophenyl)-2-[((5-(bromomethyl)-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide | 1.0 mmol, 0.5 g | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)NC(=O)C=1SC(=CC1Cl)CBr)=O | C19H12BrCl3N2O2S
reactant | thiomorpholine | 4.8 mmol, 0.5 mL | N1CCSCC1 | C4H9NS
product | N-(4-chlorophenyl)-2-[((5-((thiomorpholin-4-yl)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide | 0.4 g, 73% yield | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)NC(=O)C=1SC(=CC1Cl)CN1CCSCC1)=O | C23H20Cl3N3O2S2
